US09120749B2
tert-butyl 1-(4-aminopyridin-2-yl)piperidin-4-ylcarbamate
Following General procedure H, 2-chloro-4-nitropyridine (500 mg, 3.1 mmol) was reacted with tert-butyl piperidin-4-ylcarbamate (695 mg, 3.5 mmol) followed by reduction to afford the desired product (300 mg, 33%) as a purple solid: ESI MS m/z 293 [C15H24N4O2+H]+.

reactant | 2-chloro-4-nitropyridine | 3.1 mmol, 500 mg | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl piperidin-4-ylcarbamate | 3.5 mmol, 695 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
product | tert-butyl 1-(4-aminopyridin-2-yl)piperidin-4-ylcarbamate | 300 mg, 33% | NC1=CC(=NC=C1)N1CCC(CC1)NC(OC(C)(C)C)=O | C15H24N4O2
